US07371743B2
(c) 3-fluoro-4-(morpholin-3-on-4-yl)-benzoic acid-chloride
Prepared analogously to Example 41c from 4-(2-carboxymethoxy-ethylamino)-3-fluoro-benzoic acid and thionylchoride in dichloromethane with DMF.

reactant | 4-(2-carboxymethoxy-ethylamino)-3-fluoro-benzoic acid | C(=O)(O)COCCNC1=C(C=C(C(=O)O)C=C1)F | C11H12FNO5
reactant | thionylchoride | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-fluoro-4-(morpholin-3-on-4-yl)-benzoic acid-chloride | FC=1C=C(C(=O)Cl)C=CC1N1C(COCC1)=O | C11H9ClFNO3
